US07375115B2
Diethyl 2-[2-[1-[2(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-ethoxycarbonylsuccinate
Using tert-butyl-[2-[1-(2-iodoethyl]cyclohexyl]ethoxy]diphenylsilane (1.77 g) and triethyl 1,1,2-ethanetricarboxylate (2.51 g), the title compound (1.43 g) was obtained in the same manner as in Preparation Example 3B-1. This product was subjected to the subsequent step without further purification.

reactant | tert-butyl-[2-[1-(2-iodoethyl]cyclohexyl]ethoxy]diphenylsilane | 1.77 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1(CCCCC1)CCI | C26H37IOSi
reactant | triethyl 1,1,2-ethanetricarboxylate | 2.51 g | C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C11H18O6
product | Diethyl 2-[2-[1-[2(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-ethoxycarbonylsuccinate | 1.43 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCC(C(=O)OCC)(CC(=O)OCC)C(=O)OCC | C37H54O7Si
